US05804585
N-(4-chloro-5-methyl-3-isoxazolyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3- sulfonamide (58 mg, 0.10 mmoles), methanol (3 ml) and 4N HCl (1 ml). Recrystallization from chloroform and hexanes provided 40 mg (80%) of the title compound as a white solid, m.p. 189°-191° C.

reactant | N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3- sulfonamide | 0.10 mmoles, 58 mg | ClC=1C(=NOC1C)N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)C)COCCOC | C24H24ClN3O7S2
reactant | HCl | 4N, 1 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | N-(4-chloro-5-methyl-3-isoxazolyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 40 mg, 80% | ClC=1C(=NOC1C)NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)C | C20H16ClN3O5S2
